US06376655B1
3.66 g (0.013 mol) of ethyl 2-[4-(phenylazo)phenoxy]-ethanoate was dissolved in a mixture of 160 mL of dimethylformamide and 40 mL of water in a 250 mL one-neck round flask fitted with a magnetic stirring bar and a reflux condenser by heating to 90° C. while stirring on an oil bath. 3.6 g (0.090 mol) of NaOH was added in once through the condenser. Stirring and heating were continued for 1.5 h after which the reaction mixture was left for cooling finally on an ice-bath. The reaction mixture was then added 38 mL of 5.5 N HCl. A yellow precipitate was recovered and 40 mL of water was added. After filtration and vacuum drying 14 h at 50° C. 2.70 g (yield 82%) of 2-[4-(phenylazo)phenoxy]-ethanoic acid was obtained.

reactant | ethyl 2-[4-(phenylazo)phenoxy]-ethanoate | 0.013 mol, 3.66 g | C1(=CC=CC=C1)N=NC1=CC=C(OCC(=O)OCC)C=C1 | C16H16N2O3
reactant | NaOH | 0.090 mol, 3.6 g | [OH-].[Na+]
reactant | HCl | 5.5 N, 38 mL | Cl | ClH
solvent | dimethylformamide | 160 mL | CN(C=O)C | C3H7NO
solvent | water | 40 mL | O | H2O
product | 2-[4-(phenylazo)phenoxy]-ethanoic acid | 2.70 g, yield 82% | C1(=CC=CC=C1)N=NC1=CC=C(OCC(=O)O)C=C1 | C14H12N2O3
